US09422245B2
3,5-Pyrazoledicarboxylic acid (840 mg, 5.4 mmol, 1.0 eq.), (R)-3-amino-4-(2-chloro-phenyl)-butyric acid ethyl ester (1.3 g, 5.4 mmol, 1.0 eq.), and HATU (2.0 g, 5.4 mmol, 1.0 eq.) were combined in DMF (5 mL) and mixed with sonication. DIPEA (1.9 mL, 10.8 mmol, 2.0 eq.) was added and the mixture was stirred for 1 hour at room temperature, then vacuumed to dryness. The crude product was dissolved in EtOH (25 mL), and concentrated H2SO4 (100 μL) was added. The mixture was stirred at 80° C. for 3 hours, then vacuumed to near dryness. EtOAc (200 mL) was added and the product was washed with NaHCO3 (100 mL) and then saturated aqueous NaCl (100 mL). The organic layer was retained and dried over anhydrous MgSO4 for 10 minutes prior to filtration and evacuation to dryness to yield 5-[(R)-1-(2-chloro-benzyl)-2-ethoxycarbonyl-ethylcarbamoyl]-2H-pyrazole-3-carboxylic acid ethyl ester, which was used without further purification (1.1 g).

reactant | 3,5-Pyrazoledicarboxylic acid | 5.4 mmol, 840 mg, 1.0 eq. | N1N=C(C=C1C(=O)O)C(=O)O | C5H4N2O4
reactant | (R)-3-amino-4-(2-chloro-phenyl)-butyric acid ethyl ester | 5.4 mmol, 1.3 g, 1.0 eq. | C(C)OC(C[C@@H](CC1=C(C=CC=C1)Cl)N)=O | C12H16ClNO2
reactant | HATU | 5.4 mmol, 2.0 g, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 10.8 mmol, 1.9 mL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | H2SO4 | 100 μL | OS(=O)(=O)O | H2O4S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 5-[(R)-1-(2-chloro-benzyl)-2-ethoxycarbonyl-ethylcarbamoyl]-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1)C(N[C@@H](CC(=O)OCC)CC1=C(C=CC=C1)Cl)=O | C19H22ClN3O5
